US06906084B2
1-[5-(5-Chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-2-(1-isopropyl-piperidin-4-ylcarbamoyl)-1H-indole-4-carboxylic acid 1-cyclohexyloxycarbonyloxy-ethyl ester
can be prepared from 1-[5-(5-Chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-2-(1-isopropyl-piperidin-4-ylcarbamoyl)-1H-indole-4-carboxylic acid and cyclohexyl 1-chloroethyl carbonate by the procedure described by K. Kubo et al., J. Med. Chem. 1993, 36, 2343-2349.

reactant | 1-[5-(5-Chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-2-(1-isopropyl-piperidin-4-ylcarbamoyl)-1H-indole-4-carboxylic acid | ClC1=CC=C(S1)C1=CC(=NO1)CN1C(=CC=2C(=CC=CC12)C(=O)O)C(NC1CCN(CC1)C(C)C)=O | C26H27ClN4O4S
reactant | cyclohexyl 1-chloroethyl carbonate | C(OC1CCCCC1)(OC(C)Cl)=O | C9H15ClO3
product | 1-[5-(5-Chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-2-(1-isopropyl-piperidin-4-ylcarbamoyl)-1H-indole-4-carboxylic acid 1-cyclohexyloxycarbonyloxy-ethyl ester | C1(CCCCC1)OC(=O)OC(C)OC(=O)C=1C=2C=C(N(C2C=CC1)CC1=NOC(=C1)C=1SC(=CC1)Cl)C(NC1CCN(CC1)C(C)C)=O | C35H41ClN4O7S
